US09233922B2
[PdCl(π-allyl)]2 (5.8 mg, 0.05 mol %) and cBRIDP (22.2 mg, 0.2 mol %) were placed into a 50 mL, two-necked, round bottomed flask equipped a gas inlet, and the flask was evacuated and filled with nitrogen. Subsequently, to the mixture was added dehydrated THF (4.1 mL, 50.5 mmol, 1.6 equivalents) to prepare a catalyst solution. A 200 mL, four-necked, round-bottomed flask equipped with a Teflon® coated magnetic stirring bar, condenser, dropping funnel, thermometer, and a gas inlet was evacuated and filled with nitrogen. Carbazole (5.4 g, 32.5 mmol, 1.03 equivalents) and dehydrated xylenes (33 mL) were charged into the flask, and the mixture was cooled to 5° C. using an ice bath. Subsequently, to the mixture was added a THF solution of MeMgCl (3.22 mol/L, 10.0 mL, 32.2 mmol, 1.02 equivalents) dropwise via the dropping funnel at such a rate that the temperature of the reaction solution was kept at 20° C. or lower, and then the dropping funnel was washed with dehydrated xylenes (6 mL). Subsequently, to the solution were added 2-naphthyl tosylate (9.4 g, 31.6 mmol, 1.0 equivalent) and the catalyst solution (4.1 mL) successively, and the solution was stirred for 15 minutes under reflux. After cooling the reaction mixture to room temperature, to the mixture were added water (100 mL) and ammonium chloride (850 mg). The aqueous layer was separated off, and the organic layer was concentrated under reduced pressure to give solid residue. The residue was dissolved in toluene, and the solution was decolorized by silica gel (500 mg) and filtered through a Celite pad. The filtrate was concentrated under reduced pressure to give the solid, which was recrystallized from toluene/methanol to afford 8.5 g of N-(2-naphthyl)carbazole as a white powder.

reactant | Carbazole | 32.5 mmol, 5.4 g, 1.03 equivalents | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | MeMgCl | 32.2 mmol, 3.22 mol/L, 10.0 mL, 1.02 equivalents | C[Mg]Cl
reactant | 2-naphthyl tosylate | 31.6 mmol, 9.4 g, 1.0 equivalent | S(=O)(=O)(OC1=CC2=CC=CC=C2C=C1)C1=CC=C(C)C=C1 | C17H14O3S
reactant | ammonium chloride | 850 mg | [Cl-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | cBRIDP | 22.2 mg | CC1(CC1(C2=CC=CC=C2)C3=CC=CC=C3)P(C(C)(C)C)C(C)(C)C | C24H33P
solvent | water | 100 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50.5 mmol, 4.1 mL, 1.6 equivalents | C1CCOC1 | C4H8O
product | N-(2-naphthyl)carbazole | 8.5 g | C1=C(C=CC2=CC=CC=C12)N1C2=CC=CC=C2C=2C=CC=CC12 | C22H15N
